US08648081B2
A) Synthesis of ({3-[5-(3,5-Dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carbonyl}-amino)-acetic acid methyl ester
To a solution of compound 3-[5-(3,5-Dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid (10.0 g, 21.4 mmol) in dichloromethane (100 mL) is added triethylamine (6.49 g, 64.2 mmol), glycine methyl ester hydrochloride (3.2 g, 25.7 mmol) and HATU (12.2 g, 32.1 mmol), after the addition the mixture is stirred at room temperature for 1 hour. After being detected by TLC and LCMS, the reaction mixture is diluted with dichloromethane, then the solution is washed with water and brine, dried over anhydrous Na2SO4, filtered, concentrated and the residue is dried in vacuum to give 11 g crude product, which is used directly in next step.

reactant | 3-[5-(3,5-Dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid | 21.4 mmol, 10.0 g | ClC=1C=C(C=C(C1F)Cl)C1(CC(=NO1)C1=C2C(=C(S1)C(=O)O)CCC2)C(F)(F)F | C18H11Cl2F4NO3S
reactant | triethylamine | 64.2 mmol, 6.49 g | C(C)N(CC)CC | C6H15N
reactant | glycine methyl ester hydrochloride | 25.7 mmol, 3.2 g | Cl.COC(CN)=O
reactant | HATU | 32.1 mmol, 12.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | ({3-[5-(3,5-Dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carbonyl}-amino)-acetic acid methyl ester | 11 g | COC(CNC(=O)C=1SC(=C2C1CCC2)C2=NOC(C2)(C(F)(F)F)C2=CC(=C(C(=C2)Cl)F)Cl)=O | C21H16Cl2F4N2O4S
